US04017599
Magnesium glycinate was prepared by reacting 5 grams of glycine with 3.1 grams of basic magnesium carbonate (26.3% Mg) in 15 grams of water. The mixture was heated at 75° C. for 1/2 hour with agitation. The hot solution was then added to 113 grams of zirconyl nitrate (7.9% Zr) with stirring. After the addition of 1.5 grams of aluminum hydroxide powder (28.8% Al), the mixture was reacted with agitation at 75° C. for 1/2 hour. To the resultant clear solution was added 7.9 grams of 2/3 basic aluminum sulfate, Al(OH)2SO4 (3.1% Al). The solution was then oven dried at 58° C. under a vacuum of 328 mm of Hg. The product contained 1.2% Mg, 13.2% glycine, 1.5% Al, 24.3% Zr, 4.02% SO4 and 29.5% nitrate.

reactant | glycine | 5 grams | NCC(=O)O | C2H5NO2
reactant | magnesium carbonate | 3.1 grams | C([O-])([O-])=O.[Mg+2]
reactant | nitrate | 113 grams | [N+](=O)([O-])[O-]
reactant | aluminum hydroxide | 1.5 grams | [OH-].[Al+3].[OH-].[OH-]
reactant | aluminum sulfate | S(=O)(=O)([O-])[O-].[Al+3].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].[Al+3]
solvent | water | 15 grams | O | H2O
product | Magnesium glycinate | NCC(=O)[O-].[Mg+2].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Mg/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
